US07902381B2
(3R)-N-{(2S)-3-[(2-methoxyphenyl)sulfanyl]-2-methylpropyl}-3,4-dihydro-2H-1,5-benzoxathiepin-3-amine (1a-1) [470-454-73-0]
In a round-bottom flask maintained under an inert atmosphere, 250 mg (0.642 mmole) of (2S)-N-[(3R)-3,4-dihydro-2H-1,5-benzoxathiepin-3-yl]-3-[(2-methoxyphenyl)sulfanyl]-2-methylpropanamide (9a-1) and 7.5 mL of anhydrous THF are introduced. Next, 3.21 mL (3.21 mmoles) of 1 M BH3.THF is added dropwise, then the solution is heated to reflux for 1 h 30 min. The mixture is cooled, concentrated under reduced pressure, taken up with 20 mL of methanol, then acidified with 36% hydrochloric acid. The mixture is brought to reflux for 4 hours then stirred for 12 hours at ambient temperature. The reaction mixture is concentrated under reduced pressure then made basic (pH=10) by adding concentrated soda. The aqueous phase is extracted with dichloromethane, the combined organic phases are washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The title compound is obtained in the form of a colorless oil (232 mg, 0.618 mmole).

reactant | (2S)-N-[(3R)-3,4-dihydro-2H-1,5-benzoxathiepin-3-yl]-3-[(2-methoxyphenyl)sulfanyl]-2-methylpropanamide | 0.642 mmole, 250 mg | O1C[C@H](CSC2=C1C=CC=C2)NC([C@@H](CSC2=C(C=CC=C2)OC)C)=O | C20H23NO3S2
reactant | BH3.THF | 3.21 mmoles, 1 M, 3.21 mL | B.C1CCOC1
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
product | (3R)-N-{(2S)-3-[(2-methoxyphenyl)sulfanyl]-2-methylpropyl}-3,4-dihydro-2H-1,5-benzoxathiepin-3-amine | Yield: 96% | COC1=C(C=CC=C1)SC[C@H](CN[C@@H]1COC2=C(SC1)C=CC=C2)C | C20H25NO2S2
